US08258134B2
In an analogous manner to the reaction outlined in Intermediate 19 step 1, starting from 3-cyclopentyl-2-(4,5-dichloro-6-oxo-6H-pyridazin-1-yl)-propionic acid methyl ester and 2-(2-hydroxy-ethyl)-phenol afforded 2-{5-chloro-4-[2-(2-hydroxy-ethyl)-phenoxy]-6-oxo-6H-pyridazin-1-yl}-3-cyclopentyl-propionic acid methyl ester (10.1 g, 48%).

reactant | 3-cyclopentyl-2-(4,5-dichloro-6-oxo-6H-pyridazin-1-yl)-propionic acid methyl ester | COC(C(CC1CCCC1)N1N=CC(=C(C1=O)Cl)Cl)=O | C13H16Cl2N2O3
reactant | 2-(2-hydroxy-ethyl)-phenol | OCCC1=C(C=CC=C1)O | C8H10O2
product | 2-{5-chloro-4-[2-(2-hydroxy-ethyl)-phenoxy]-6-oxo-6H-pyridazin-1-yl}-3-cyclopentyl-propionic acid methyl ester | 10.1 g, 48% | COC(C(CC1CCCC1)N1N=CC(=C(C1=O)Cl)OC1=C(C=CC=C1)CCO)=O | C21H25ClN2O5
